US09326976B2
4-((S)-2-((S)-3-(3-(2-Aminoethylcarbamoyl)phenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide hydrochloride (195 mg, 0.244 mmol), 3-formylbenzoic acid (110 mg, 0.733 mmol), DMAP (5.97 mg, 0.049 mmol) and EDC (141 mg, 0.733 mmol) were dissolved in DMF. The reaction was stirred at RT overnight to achieve completion. The reaction mixture was diluted with water, and the precipitate was washed with water, dissolved in DCM and extracted with water. The organic phase was dried over Na2SO4 and concentrated under vacuum to give 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-(2-(3-formylbenzamido)ethylcarbamoyl)-phenylsulfonyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (100 mg, 0.112 mmol, 45.8% yield).

reactant | 4-((S)-2-((S)-3-(3-(2-Aminoethylcarbamoyl)phenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide hydrochloride | 0.244 mmol, 195 mg | Cl.NCCNC(=O)C=1C=C(C=CC1)S(=O)(=O)N1[C@@H](SCC1)C(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1
reactant | 3-formylbenzoic acid | 0.733 mmol, 110 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | EDC | 0.733 mmol, 141 mg
catalyst | DMAP | 0.049 mmol, 5.97 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-(2-(3-formylbenzamido)ethylcarbamoyl)-phenylsulfonyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.112 mmol, 100 mg, 45.8% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1S(=O)(=O)C1=CC(=CC=C1)C(NCCNC(C1=CC(=CC=C1)C=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C39H36Cl2F2N4O10S2
